US09163021B2
N-(2-{[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-4-yl)-2-(5-chloropyridin-2-yl)acetamide
Prepared according to Method Z (Preparation 8) using (4-aminopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone (Preparation 30) and (5-chloropyridin-2-yl)acetic acid (Preparation 80).

reactant | (4-aminopyridin-2-yl)[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | NC1=CC(=NC=C1)C(=O)C1=CN(C2=C1C=NC=C2)C(CO[Si](C)(C)C(C)(C)C)C | C22H30N4O2Si
reactant | (5-chloropyridin-2-yl)acetic acid | ClC=1C=CC(=NC1)CC(=O)O | C7H6ClNO2
product | N-(2-{[1-(2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-4-yl)-2-(5-chloropyridin-2-yl)acetamide | [Si](C)(C)(C(C)(C)C)OCC(C)N1C=C(C=2C=NC=CC21)C(=O)C2=NC=CC(=C2)NC(CC2=NC=C(C=C2)Cl)=O | C29H34ClN5O3Si
